US09119868B2
HATU (27.1 mg, 0.071 mmol) was added to a solution of 6-(N-(4-borono-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid (20 mg, 0.036 mmol) and Hunig's base (0.031 mL, 0.179 mmol) in DMF (3 mL). After stirring for 1 h at RT, a 2M solution of ammonia in MeOH (0.357 mL, 0.714 mmol) was added and the solution was stirred for 16 h. Water and EtOAc were added. The organic layer was separated, washed with water, brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by Reverse Phase HPLC (water/MeCN+0.1% formic acid) to give (4-(N-(3-carbamoyl-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-6-yl)methylsulfonamido)-2-chlorophenyl)boronic acid (9 mg, 0.015 mmol, 43% yield) as a white powder. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.33 (s, 2H), 8.12 (s, 1H), 8.05 (s, 1H), 7.94-8.01 (m, 2H), 7.80 (s, 1H), 7.59-7.68 (m, 2H), 7.41-7.46 (m, 1H), 7.39 (d, 1H), 7.30-7.37 (m, 1H), 7.23 (s, 1H), 3.41 (s, 3H), 2.05-2.21 (m, 1H), 1.02 (br. s., 1H), 0.83 (br. s., 2H), 0.53 (br. s., 1H). LCMS (m/z, ES+)=559.2 (M+H+).

reactant | HATU | 0.071 mmol, 27.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-(N-(4-borono-3-chlorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylic acid | 0.036 mmol, 20 mg | B(O)(O)C1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)O)C=C1C1CC1)Cl | C25H20BCl2NO7S
reactant | Hunig's base | 0.179 mmol, 0.031 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonia | N | H3N
reactant | MeOH | 0.714 mmol, 0.357 mL | CO | CH4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | (4-(N-(3-carbamoyl-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-6-yl)methylsulfonamido)-2-chlorophenyl)boronic acid | 0.015 mmol, 9 mg, 43% yield | C(N)(=O)C1=C(OC2=C1C=C(C(=C2)N(S(=O)(=O)C)C2=CC(=C(C=C2)B(O)O)Cl)C2CC2)C2=CC=C(C=C2)Cl | C25H21BCl2N2O6S
